US06897224B2
1-(Quinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 1, 200 mg (0.48 mmol) of 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-(trifluoromethyl)oxirane is reacted with 99 mg (0.68 mmol) of 5-aminoquinoline. After chromatography on silica gel with hexane-ethyl acetate (0-70%), 58 mg of the product is obtained.

reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-(trifluoromethyl)oxirane | 0.48 mmol, 200 mg | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | 5-aminoquinoline | 0.68 mmol, 99 mg | NC1=C2C=CC=NC2=CC=C1 | C9H8N2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-(Quinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 58 mg | N1=CC=CC2=C(C=CC=C12)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C23H24F4N2O2
